* ============================================
* Driver Chain - Tapered Inverter (4-stage), Standalone
* Simplified BSIM4 Models (LTSpice-native)
* Shiwank Gupta | Nik-Coronics | Jul 2026
* ============================================

.model sky130_esd_nmos NMOS
+ LEVEL=14 VERSION=4.5 TNOM=27
+ TOX=4.148e-9 TOXE=4.148e-9 TOXP=2.1e-9 TOXM=4.148e-9
+ VTH0=0.488 K1=0.5 K2=0.01
+ U0=350 VSAT=70000
+ RDSW=150
+ WINT=0 LINT=0
+ CGSO=1e-10 CGDO=1e-10 CJ=1e-3 CJSW=1e-10

.model sky130_esd_pmos PMOS
+ LEVEL=14 VERSION=4.5 TNOM=27
+ TOX=4.148e-9 TOXE=4.148e-9 TOXP=2.1e-9 TOXM=4.148e-9
+ VTH0=-0.5 K1=0.5 K2=0.01
+ U0=175 VSAT=60000
+ RDSW=200
+ WINT=0 LINT=0
+ CGSO=1e-10 CGDO=1e-10 CJ=1e-3 CJSW=1e-10

VDD vdd 0 DC 1.8

* --- Input signal (fast digital edge, 1.8V logic) ---
Vin in 0 PULSE(0 1.8 5n 0.1n 0.1n 10n 20n)

* --- Stage 1 ---
M1p n1 in vdd vdd sky130_esd_pmos l=0.15u w=1u
M1n n1 in 0   0   sky130_esd_nmos l=0.15u w=0.5u

* --- Stage 2 ---
M2p n2 n1 vdd vdd sky130_esd_pmos l=0.15u w=3.5u
M2n n2 n1 0   0   sky130_esd_nmos l=0.15u w=1.75u

* --- Stage 3 ---
M3p n3 n2 vdd vdd sky130_esd_pmos l=0.15u w=12u
M3n n3 n2 0   0   sky130_esd_nmos l=0.15u w=6u

* --- Stage 4 (final, drives pad) ---
M4p pad n3 vdd vdd sky130_esd_pmos l=0.15u w=42u
M4n pad n3 0   0   sky130_esd_nmos l=0.15u w=21u

* --- Pad load: bond wire + PCB trace approximation ---
Cload pad 0 5p

.options gmin=1e-10 reltol=0.01
.tran 0.05n 60n 0 0.05n uic

* --- 10-90% rise/fall time measurement ---
.meas tran trise TRIG V(pad) VAL=0.18 RISE=1 TARG V(pad) VAL=1.62 RISE=1
.meas tran tfall TRIG V(pad) VAL=1.62 FALL=1 TARG V(pad) VAL=0.18 FALL=1

.end
